US05246927
A solution of 0.5 g of 2-tert-butyl-5-(4-methyl-piperidin-1-yl)-6-phenoxythiocarbonylaminobenzothiazole and 0.11 g of 4-methylpiperazine in 20 ml of dioxane is refluxed for 16 hours. Evaporation of the solvent and chromatography of the residue over silica gel and elution with methylene dichloride-methanol (98:2) gives 2-tert-butyl-6-[(4-methylpiperazin-1-yl)thiocarbonylamino]-5-(4-methylpiperidin-1-yl)benzothiazole, identical with the compound described in Example 1.

reactant | 2-tert-butyl-5-(4-methyl-piperidin-1-yl)-6-phenoxythiocarbonylaminobenzothiazole | 0.5 g | C(C)(C)(C)C=1SC2=C(N1)C=C(C(=C2)NC(=S)OC2=CC=CC=C2)N2CCC(CC2)C | C24H29N3OS2
reactant | 4-methylpiperazine | 0.11 g | CN1CCNCC1 | C5H12N2
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | 2-tert-butyl-6-[(4-methylpiperazin-1-yl)thiocarbonylamino]-5-(4-methylpiperidin-1-yl)benzothiazole | C(C)(C)(C)C=1SC2=C(N1)C=C(C(=C2)NC(=S)N2CCN(CC2)C)N2CCC(CC2)C | C23H35N5S2
